US07129232B2
To a solution of 3-amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine sulfuric acid salt (4.44 g) and N-ethyldiisopropylamine (3.88 g) in methylene chloride (100 ml) was added N-[3-(tert-butoxycarbonylamino)propionyloxy]succinimide (4.29 g). The mixture was stirred at room temperature for 6 hours. The reaction mixture was washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 5% methanol/chloroform to give 3-[3-(tert-butoxycarbonylamino)propionyl]amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (3.67 g) as an oil.

reactant | 3-amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine sulfuric acid salt | 4.44 g | S(O)(O)(=O)=O.NC=1C=NN2C1NCCC2
reactant | N-ethyldiisopropylamine | 3.88 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-[3-(tert-butoxycarbonylamino)propionyloxy]succinimide | 4.29 g | C(C)(C)(C)OC(=O)NCCC(=O)ON1C(CCC1=O)=O | C12H18N2O6
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(tert-butoxycarbonylamino)propionyl]amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 3.67 g | C(C)(C)(C)OC(=O)NCCC(=O)NC=1C=NN2C1NCCC2 | C14H23N5O3
